US07122666B2
12(iv)′ (2S,4S)-1-Benzyloxycarbonyl-2-hydroxymethyl-4-methylthiopyrrolidine
85.5 ml (85.5 mmol) of a 1M solution of tetrabutylammonium fluoride in tetrahydrofuran were added to a solution of 30.74 g (77.7 mmol) of (2S,4S)-1-benzyloxycarbonyl-2-(t-butyldimethylsilyloxy)methyl-4-methylthiopyrrolidine [obtained as described in Preparative Example in 12(iii)′ above] in 155 ml of tetrahydrofuran, and the resulting mixture was stirred at room temperature overnight. At the end of this time, the reaction mixture was concentrated by evaporation under reduced pressure and the resulting residue was partitioned between ethyl acetate and water. The organic extract was washed with water, dried over anhydrous magnesium sulfate and then concentrated by evaporation under reduced pressure. The resulting residue was purified by chromatography on a silica gel column using a 1:1 by volume mixture of hexane and ethyl acetate as the eluant to afford 21.87 g (yield: quantitative) of the title compound as a yellow oil.

reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | (2S,4S)-1-benzyloxycarbonyl-2-(t-butyldimethylsilyloxy)methyl-4-methylthiopyrrolidine | 77.7 mmol, 30.74 g | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@@H](C1)SC)CO[Si](C)(C)C(C)(C)C | C20H33NO3SSi
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 155 ml | O1CCCC1 | C4H8O
product | (2S,4S)-1-Benzyloxycarbonyl-2-hydroxymethyl-4-methylthiopyrrolidine | 21.87 g, yield: quantitative | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@@H](C1)SC)CO | C14H19NO3S
